US07074777B2
(7) 1α,3β-dihydroxy-17β-(hydroxymethyl)androsta-5,7-diene
To 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(hydroxymethyl)androsta-5,7-diene (1.0 g), was added a 1M tetra-n-butylammonium fluoride tetrahydrofuran solution (11 ml), followed by reflux for 6 hours. After adding ethyl acetate, the reaction mixture was washed with saturated brine, a saturated aqueous sodium bicarbonate solution (twice) and then saturated brine. The organic layer was dried over anhydrous magnesium sulfate, evaporated under reduced pressure to remove the solvent and the thus obtained residue was purified by column chromatography (hexane:ethyl acetate=1:2) to give the titled compound (560 mg).

reactant | 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(hydroxymethyl)androsta-5,7-diene | 1.0 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12C)CO)O[Si](C)(C)C(C)(C)C | C32H58O3Si2
reactant | tetra-n-butylammonium fluoride tetrahydrofuran | 1M, 11 ml | O1CCCC1.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1α,3β-dihydroxy-17β-(hydroxymethyl)androsta-5,7-diene | 560 mg | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12C)CO)O | C20H30O3
